US05770737
Preparation of N.N-Diphenyl-7-(2-(4-pyridinyl)ethenyl)-9,9-di-n-decyl-9H-fluorene-2-amine
N,N-diphenyl-7-bromo-9,9-di-n-decyl-9H-fluorene-2-amine (8.08 9,11.66 mmol), tri-o-tolylphosphine (1.42 g, 4.67 mmol), triethylamine (30 ml, degassed with nitrogen for 15 minutes), 4-vinylpyridine (2.52 ml, 23.32 mmol) and palladium(Il) acetate (0.13 g, 0.58 mmol) were added to a single-necked round bottom flask equipped with a magnetic stirrer and reflux condenser. The solution was heated at reflux by means of an oil bath under nitrogen for 16 hours. The solvent was removed under reduced pressure and the residue dissolved in methylene chloride. The organic layer was washed 3 times with water, dried over anhydrous MgSO4, filtered and concentrated. The product was purified by column chromatography using silica gel and 85:15 hexane:ethyl acetate to afford a yellow oil in 59.45% yield. The oil, upon standing for several days, gradually solidified to give a waxy solid (mp 88.4° C.-89.3° C.). Mass Spec. m/z 716 (M+), 576, (M-C10H20), 358 (M++). Elemental Analysis: Calculated for C52H64N2 : C, 87.10; H, 9.00; N, 3.90. Found: C, 87.17; H, 9.45; N, 3.35.

reactant | N,N-diphenyl-7-bromo-9,9-di-n-decyl-9H-fluorene-2-amine | 11.66 mmol | C1(=CC=CC=C1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCCCC)CCCCCCCCCC)C1=CC=CC=C1 | C45H58BrN
reactant | tri-o-tolylphosphine | 4.67 mmol, 1.42 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-vinylpyridine | 23.32 mmol, 2.52 ml | C(=C)C1=CC=NC=C1 | C7H7N
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | N.N-Diphenyl-7-(2-(4-pyridinyl)ethenyl)-9,9-di-n-decyl-9H-fluorene-2-amine | 59.45% yield | C1(=CC=CC=C1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)C=CC1=CC=NC=C1)(CCCCCCCCCC)CCCCCCCCCC)C1=CC=CC=C1 | C52H64N2
